US08476294B2
Stage 233.1.2 5-Bromo-1,3,3-trimethyl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one
To a mixture of 5-bromo-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (Aldrich, Buchs, Switzerland, 1.394 min) in DMF (7 ml) cooled with an ice-bath was added 55% NaH in oil (1.6 mmol) and the RM was stirred for 30 min at rt, then was added iodomethane (0.1 ml) and the RM was stirred for 30 min at rt. The RM was cooled with an ice-bath and was added 55% NaH in oil (1.6 mmol) and the RM was stirred for 15 min at rt, then was added iodomethane (0.1 ml) and the RM was stirred for 30 min at rt. The RM was cooled with an ice-bath and was added 55% NaH in oil (1.6 mmol) and the RM was stirred for 15 min at rt, then was added iodomethane (0.1 ml) and the RM was stirred for 1.5 h at rt. The RM was quenched with saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was washed with brine (3×), dried over Na2SO4, filtered and evaporated. The residue was absorbed on silica gel and purified by flash chromatography (heptane/EtOAc 0% to 40%). The fractions containing product were evaporated together to give the title compound as an off-white solid. (HPLC: tR 2.99 min (Method A); M+H=255, 257 MS-ES)

reactant | 5-bromo-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | BrC=1C=C2C(=NC1)NC(C2)=O | C7H5BrN2O
reactant | NaH | [H-].[Na+]
reactant | iodomethane | 0.1 ml | IC | CH3I
reactant | iodomethane | 0.1 ml | IC | CH3I
reactant | iodomethane | 0.1 ml | IC | CH3I
reactant | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 5-Bromo-1,3,3-trimethyl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | BrC=1C=C2C(=NC1)N(C(C2(C)C)=O)C | C10H11BrN2O
